US09260425B2
To a 350 mL sealed flask was dissolved 1-(2-bromo-5-fluoro-4-pyridinyl)ethanol (9.4 g, 42.3 mmol) in 60 mL dry CHCl3. Added next to the stirring solution was manganese(IV)oxide (14.7 g, 169 mmol). The vigorously stirred contents were sealed and heated at 95° C. for 2.5 h. After cooling to room temperature, the black heterogeneous mixture was vacuum filtered through a pad of Celite, and the filter pad washed with CH2Cl2 (10 mL). The yellow colored filtrate was concentrated in vacuo to a yellow oil, which was purified by silica gel column chromatography (eluent: 9:1 PE/EtOAc) to afford 1-(2-bromo-5-fluoropyridin-4-yl)ethanone as a pale yellow oil (8.2 g, 88%). ESI MS m/z=218 (M+1)

reactant | 1-(2-bromo-5-fluoro-4-pyridinyl)ethanol | 42.3 mmol, 9.4 g | BrC1=NC=C(C(=C1)C(C)O)F | C7H7BrFNO
solvent | CHCl3 | 60 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV)oxide | 169 mmol, 14.7 g | [O-2].[Mn+4].[O-2]
product | 1-(2-bromo-5-fluoropyridin-4-yl)ethanone | 8.2 g, 88% | BrC1=NC=C(C(=C1)C(C)=O)F | C7H5BrFNO
